US07465736B2
To a solution of 2-amino-5-picoline (27 g, 250 mmol) in DCM (250 mL) were added DMAP (4.6 g, 37.5 mmol) and Boc anhydride (65.5 g, 300 mmol). The reaction mixture was allowed to stir at rt for 16 h, then the solvent was removed under reduced pressure. The residue obtained was recrystallized from ACN to give 24 g of (tert-butoxy)-N-(5-metyl-(2-pyridyl))carboxamide (44%).

reactant | 2-amino-5-picoline | 250 mmol, 27 g | NC1=NC=C(C=C1)C | C6H8N2
reactant | Boc anhydride | 300 mmol, 65.5 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 37.5 mmol, 4.6 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | (tert-butoxy)-N-(5-metyl-(2-pyridyl))carboxamide | 24 g, 44% | C(C)(C)(C)OC(=O)NC1=NC=C(C=C1)C | C11H16N2O2
